US04870074
Preparation of 2-aminomethyl-4-benzylmorpholine
A solution of 2-azidomethyl-4-benzylmorpholine (15 g) in toluene (40 ml) is added dropwise to a stirred solution of 70% sodium bis(2-methoxyethoxy)aluminum hydride in toluene (60 ml) cooled to -5° C. The reaction mixture is stirred at 25° C. for 1.5 hours and cooled to 10° C., and the excess of the reducing agent is decomposed by the cautious addition of 10% aqueous sodium hydroxide solution. The organic layer is separated, washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. After removal of the solvent under reduced pressure, the title compound is obtained a an oil (11 g).

reactant | 2-azidomethyl-4-benzylmorpholine | 15 g | N(=[N+]=[N-])CC1CN(CCO1)CC1=CC=CC=C1 | C12H16N4O
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-aminomethyl-4-benzylmorpholine | NCC1CN(CCO1)CC1=CC=CC=C1 | C12H18N2O
